US04237067
N-(3-dimethylaminopropyl)-3-n-butoxypropionamide.
145.2 g (1.0 mole) of 3-n-butoxypropionamide are heated with 107.3 g (1.05 mole) of 3-dimethylaminopropylamine for 8 hours in a temperature range of 150°-170° C. until the evolution of ammonia is complete. In the subsequent distillation in a high vacuum, 204 g (0.89 mole =89% of the theoretical yield) of colorless liquid are obtained having a Bp0.1 of 122° to 124° C.

reactant | 3-n-butoxypropionamide | 1.0 mole, 145.2 g | C(CCC)OCCC(=O)N | C7H15NO2
reactant | 3-dimethylaminopropylamine | 1.05 mole, 107.3 g | CN(CCCN)C | C5H14N2
reactant | ammonia | N | H3N
product | N-(3-dimethylaminopropyl)-3-n-butoxypropionamide | CN(CCCNC(CCOCCCC)=O)C | C12H26N2O2
